US04011230
As in Example 17, reaction of p-bromo-β-nitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave p-bromo-α-(nitromethyl)benzyl dimethyldithiocarbamate melting at 79° C.-81° C. when recrystallized without heating from acetone-ethanol solution.

reactant | p-bromo-β-nitrostyrene | BrC1=CC=C(C=C[N+](=O)[O-])C=C1 | C8H6BrNO2
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | p-bromo-α-(nitromethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC=C(C=C1)Br)C[N+](=O)[O-])=S)C | C11H13BrN2O2S2
